US05290812
(-)-4-[3-(3-(4-acetyl-3-hydroxy-2-propylphenylthio) propoxy)-6-(1-hydroxyethyl)-2-propylphenoxy] butanoic acid
A mixed solution of 55.9 mg of (-)-4-[3-(3-chloropropoxy)-6-(1-hydroxyethyl)-2-propylphenoxy] butanoic acid, 39.3 mg of (2-hydroxy-4-mercapto-3-propylphenyl) ethanone, 51.7 mg of potassium carbonate and 1 ml of dimethylformamide was stirred at room temperature for 6 hours. The reaction mixture was poured into ice water, acidified with 1N-hydrochloric acid, and extracted with ethyl acetate. After washed with water and saturated aqueous solution of sodium chloride, the organic layer was dried over anhydrous sodium sulfate and subjected to distillation off of the solvent under reduced pressure to afford residue, which was then purified through silica gel column chromatography (methylene chloride: methanol=20:1) and further purified through preparative thin layer chromatography (methylene chloride: methanol=15:1) to afford 29.8 mg of yellow oily matter as the title compound (35.9%). [α]D20 -13.8° (c=2.98, ethanol)

reactant | (-)-4-[3-(3-chloropropoxy)-6-(1-hydroxyethyl)-2-propylphenoxy] butanoic acid | 55.9 mg | ClCCCOC=1C(=C(OCCCC(=O)O)C(=CC1)C(C)O)CCC | C18H27ClO5
reactant | (2-hydroxy-4-mercapto-3-propylphenyl) ethanone | 39.3 mg | OC1=C(C=CC(=C1CCC)S)C(C)=O | C11H14O2S
reactant | potassium carbonate | 51.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (-)-4-[3-(3-(4-acetyl-3-hydroxy-2-propylphenylthio) propoxy)-6-(1-hydroxyethyl)-2-propylphenoxy] butanoic acid | 35.9% | C(C)(=O)C1=C(C(=C(C=C1)SCCCOC=1C(=C(OCCCC(=O)O)C(=CC1)C(C)O)CCC)CCC)O | C29H40O7S
